US07696193B2
N-Methyl-6-{[3-(2-methylcyclopentyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]oxy}-3-pyridinecarboxamide (E224)
Example 224 (E224) was prepared from N-methyl-6-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yloxy)-3-pyridinecarboxamide (D40) and 2-methyl cyclopentanone using the method described for Example 223; MS (ES+) m/e 380 [M+H]+.

reactant | N-methyl-6-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yloxy)-3-pyridinecarboxamide | CNC(=O)C=1C=NC(=CC1)OC1=CC2=C(CCNCC2)C=C1 | C17H19N3O2
reactant | 2-methyl cyclopentanone | CC1C(CCC1)=O | C6H10O
product | N-Methyl-6-{[3-(2-methylcyclopentyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]oxy}-3-pyridinecarboxamide | CNC(=O)C=1C=NC(=CC1)OC1=CC2=C(CCN(CC2)C2C(CCC2)C)C=C1 | C23H29N3O2
